US08486970B2
To a solution of 1.31 g of 4-methoxybenzyl [3-(2-amino-2-oxoethyl)phenyl]acetate in pyridine (20 mL) was added 718 mg of methane sulfonyl chloride under ice-cooling, followed by stirring for 2 hours. The reaction solution was concentrated under reduced pressure. The residue was diluted with ethyl acetate and washed with a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, and then a saturated aqueous sodium chloride solution in this order. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 1.25 g of 4-methoxybenzyl [3-(cyanomethyl)phenyl]acetate as a yellow oily substance.

reactant | 4-methoxybenzyl [3-(2-amino-2-oxoethyl)phenyl]acetate | 1.31 g | NC(CC=1C=C(C=CC1)CC(=O)OCC1=CC=C(C=C1)OC)=O | C18H19NO4
reactant | methane sulfonyl chloride | 718 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-methoxybenzyl [3-(cyanomethyl)phenyl]acetate | 1.25 g | C(#N)CC=1C=C(C=CC1)CC(=O)OCC1=CC=C(C=C1)OC | C18H17NO3
